US08895547B2
5-Biphenyl-4-yl-2-ethoxy-6,6-dimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide
A mixture of 3.14 g of 1-biphenyl-4-yl-2-hydroxy-2-methylpropane-1-sulfonamide in 75 ml of tetraethoxymethane and 15 ml of acetic acid was stirred at 100° C. for 24 hours. The conversion was checked by LCMS. Since it was incomplete, the reaction mixture was admixed with a further 15 ml of acetic acid and stirred at 120° C. for 4 hours. Subsequently, a further 20 ml of tetraethoxymethane were added and the reaction mixture was stirred at 120° C. for 5 hours. Since, by checking with LCMS, no further conversion had been achieved, the solvent was removed under reduced pressure and the residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (1.04 g) with a molecular weight of 359.5 g/mol (C19H21NO4S).

reactant | 1-biphenyl-4-yl-2-hydroxy-2-methylpropane-1-sulfonamide | 3.14 g | C1(=CC=C(C=C1)C(C(C)(C)O)S(=O)(=O)N)C1=CC=CC=C1 | C16H19NO3S
reactant | tetraethoxymethane | 75 ml | C(C)OC(OCC)(OCC)OCC | C9H20O4
reactant | tetraethoxymethane | 20 ml | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-Biphenyl-4-yl-2-ethoxy-6,6-dimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 1.04 g | C1(=CC=C(C=C1)C1S(N=C(OC1(C)C)OCC)(=O)=O)C1=CC=CC=C1 | C19H21NO4S
